US03953604
A solution of 2,6-dihydroxyacetophenone (15.2 g), 2,6-dimethylphenylglycidyl ether (17.8 g) and trimethylbenzylammonium hydroxide solution (10 drops of a 40% solution) in 2-ethoxyethanol (75 ml) was heated under reflux for 2 days. The solvent was then removed under reduced pressure and the residue allowed to stand for 2 days. The oily crystalline materials was then sucked dry on a filter pump and washed with the minimum volume of ether to give 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-(2,6-dimethyl-phenoxy) propane (12.7 g) as a pale primrose solid, m.p. 88°-90°. A portion was recrystallized from aqueous ethanol to give pale yellow prisms, m.p. 88°-90° C.

reactant | 2,6-dihydroxyacetophenone | 15.2 g | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | 2,6-dimethylphenylglycidyl ether | 17.8 g | CC1=C(C(=CC=C1)C)C(C1CO1)OC(C1CO1)C1=C(C=CC=C1C)C | C22H26O3
reactant | trimethylbenzylammonium hydroxide | [OH-].C[N+](CC1=CC=CC=C1)(C)C
reactant | 2-ethoxyethanol | 75 ml | C(C)OCCO | C4H10O2
product | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-(2,6-dimethyl-phenoxy) propane | 12.7 g | C(C)(=O)C1=C(OCC(COC2=C(C=CC=C2C)C)O)C=CC=C1O | C19H22O5
